resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.988464
R2 0 n2 0.997396
R3 0 n4 1.009755
R4 n1 n3 0.987672
R5 n1 n5 0.982415
R6 n2 n3 0.980018
R7 n2 n6 0.991835
R8 n3 n7 1.002492
R9 n4 n5 1.017348
R10 n4 n6 0.985297
R11 n5 n7 1.010575
R12 n6 n7 1.016676
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
